US04618677
The procedure described in Example 2 was followed, using 1.4 g of phenyl isocyanate, 4.0 g of 3-[4-(4-methylbenzyl)piperazin-1-yl]propanethiol dihydrochloride, 1.2 g of triethylamine and 50 ml of methylene chloride, to give 1.1 g (20% of theory) of N-phenyl-S-{3-[4-(4-methylbenzyl)piperazin-1-yl]propyl}thiocarbamate dihydrochloride sesquihydrate as a white crystalline solid, M.p. 255°-258° C.

reactant | phenyl isocyanate | 1.4 g | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | 3-[4-(4-methylbenzyl)piperazin-1-yl]propanethiol dihydrochloride | 4.0 g | Cl.Cl.CC1=CC=C(CN2CCN(CC2)CCCS)C=C1
reactant | triethylamine | 1.2 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | N-phenyl-S-{3-[4-(4-methylbenzyl)piperazin-1-yl]propyl}thiocarbamate dihydrochloride sesquihydrate | 1.1 g, 20% | O.Cl.Cl.C1(=CC=CC=C1)NC(O)=SCCCN1CCN(CC1)CC1=CC=C(C=C1)C.O.O.C1(=CC=CC=C1)NC(O)=SCCCN1CCN(CC1)CC1=CC=C(C=C1)C.Cl.Cl | InChI=1S/2C22H31N3OS.4ClH.3H2O/c2*1-19-8-10-20(11-9-19)18-25-15-13-24(14-16-25)12-5-17-27-22(26)23-21-6-3-2-4-7-21;;;;;;;/h2*2-4,6-11,23,26-27H,5,12-18H2,1H3;4*1H;3*1H2
